US04304728
A stirred solution of 5-hydroxy-2-hydroxymethyl-4H-pyran-4-one (10.2 g), diphenyliodonium bromide (26.0 g) and sodium methoxide (4.3 g) in methanol (100 ml) was heated at 50° C. for 20 hours. The solution was cooled and treated with water (200 ml) and petroleum ether 60°-80° C. (100 ml) and the solid product was recrystallised from ethanol-water and then from ethyl acetate-petroleum ether 60°-80° C. to give 3-hydroxy-6-hydroxymethyl-2-phenyl-4H-pyran-4-one (mp 151°-154° C.).

reactant | 5-hydroxy-2-hydroxymethyl-4H-pyran-4-one | 10.2 g | OC=1C(C=C(OC1)CO)=O | C6H6O4
reactant | diphenyliodonium bromide | 26.0 g | [Br-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | sodium methoxide | 4.3 g | C[O-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 3-hydroxy-6-hydroxymethyl-2-phenyl-4H-pyran-4-one | OC1=C(OC(=CC1=O)CO)C1=CC=CC=C1 | C12H10O4
